US07939526B2
Solid 3-chloroperoxybenzoic acid (2.1 g of ˜60%) was added in portions over a period of 3 minutes to a solution of 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline (2.7 g, 7.2 mmol) in chloroform (72 μL). The reaction mixture was stirred at ambient temperature for 30 minutes then additional 3-chloroperoxybenzoic acid (0.4 g) was added. The reaction mixture was stirred at ambient temperature for 15 minutes and then partitioned between dichloromethane (100 mL) and saturated aqueous sodium carbonate (50 mL). The organic layer was washed sequentially with saturated aqueous sodium carbonate (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure to provide 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline 5-oxide as an orange foam.

reactant | 3-chloroperoxybenzoic acid | 2.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline | 7.2 mmol, 2.7 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCS(=O)(=O)C | C19H25N3O3S
reactant | 3-chloroperoxybenzoic acid | 0.4 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 72 μL | C(Cl)(Cl)Cl | CHCl3
product | 2-butyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline 5-oxide | C(CCC)C=1N(C2=C(C=[N+](C=3C=CC=CC23)[O-])N1)CCOCCS(=O)(=O)C | C19H25N3O4S
